US20010018525A1
To a solution of 8-phenyl octanoic acid (28.6 g, 129.8 mmol, 1 eq) in CH2Cl2 (100 mL) cooled to 0° C. was added oxalyl chloride (17 mL, 195 mmol, 1.5 eq) dropwise via an addition funnel over 30 minutes. Upon the completion of the addition, the ice bath was removed and the reaction was stirred at rt for 2 h. It was then heated at reflux for 30 minutes. The reaction was cooled to rt and concentrated in vacuo to afford a yellow oil. It was added as a solution in EtO (100 mL) to a solution of condensed methyl amine (˜20 mL) in Et2O (200 mL) at −78° C. Immediately, a white precipitate formed. The cold bath was removed and the reaction was allowed to stir overnight warming to rt under a stream of N2. The residue was washed with Et2O and concentrated to afford N-methyl-8-phenyloctanamide (25.2 g, 83%) as a yellow-white solid. 1H NMR (CDCl3) δ7.68-7.10 (m, 5H); 5.42 (bs, 1H); 3.80 (m, 3H); 2.60 (m, 2H); 2.18 (m, 2H); 1.60 (m, 4H); 1.30 (m, 8H).

reactant | 8-phenyl octanoic acid | 129.8 mmol, 28.6 g, 1 eq | C1(=CC=CC=C1)CCCCCCCC(=O)O | C14H20O2
reactant | oxalyl chloride | 195 mmol, 17 mL, 1.5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl amine | ˜20 mL | CN | CH5N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | N-methyl-8-phenyloctanamide | 25.2 g, 83% | CNC(CCCCCCCC1=CC=CC=C1)=O | C15H23NO
